US06194601B1
(Z)-3-Ethyl-3-methyl-1-iodo-1-pentene
A suspension of (iodomethyl)triphenylphosphonium iodide (0.530 g, 1 mmol) in tetrahydrofuran (3 mL) was treated dropwise at room temperature with sodium bis(trimethylsilyl)amide (1 mL, 1M solution in THF, 1 mmol) for 2-3 minutes. The solution was then cooled to −78° C. and a solution of 2-ethyl-2-methyl-butanal (0.100 g, 0.88 mmol) in tetrahydrofuran was added dropwise. The cooling bath was removed and stirring continued at room temperature for 1 hour. The reaction mixture was diluted with hexane, filtered and evaporated. The crude compound was purified by silica gel chromatography (hexane) and afforded the title compound (0.130 g, 62%).

reactant | (iodomethyl)triphenylphosphonium iodide | 1 mmol, 0.530 g | [I-].IC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | 1 mmol, 1M, 1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-ethyl-2-methyl-butanal | 0.88 mmol, 0.100 g | C(C)C(C=O)(CC)C | C7H14O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (Z)-3-Ethyl-3-methyl-1-iodo-1-pentene | 0.130 g, 62% | C(C)C(\C=C/I)(CC)C | C8H15I
